US08039455B2
f) 3-(Allyl-benzyloxycarbonyl-amino)-5-oxazol-2-yl-benzoic acid methyl ester
3-Benzyloxycarbonylamino-5-oxazol-2-yl-benzoic acid methyl ester (330 mg, 0.927 mmol, I eq) is dissolved in THF (10 ml). NaH (48 mg, 60%,1.21 mmol, 1.3 eq) is added in portions, and the reaction mixture is stirred for 30 min at rt. TBAI (35 mg, 92.7 μmol, 0.1 eq) and allyl bromide (119 μl, 1.39 mmol, 1.5 eq) are added, and the reaction mixture is stirred for 20 h and then quenched with HCl (1N in H2O). The aqueous phase is extracted with EtOAc. The organic layer is washed with brine, dried over sodium sulfate, filtered and concentrated to give the product.

reactant | 3-Benzyloxycarbonylamino-5-oxazol-2-yl-benzoic acid methyl ester | 0.927 mmol, 330 mg | COC(C1=CC(=CC(=C1)C=1OC=CN1)NC(=O)OCC1=CC=CC=C1)=O | C19H16N2O5
reactant | NaH | 1.21 mmol, 48 mg, 1.3 eq | [H-].[Na+]
reactant | allyl bromide | 1.39 mmol, 119 μl, 1.5 eq | C(C=C)Br | C3H5Br
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | TBAI | 92.7 μmol, 35 mg, 0.1 eq | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
product | 3-(Allyl-benzyloxycarbonyl-amino)-5-oxazol-2-yl-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C=1OC=CN1)N(C(=O)OCC1=CC=CC=C1)CC=C)=O | C22H20N2O5
